US08859768B2
To a solution of N-{4-[4-(1,1-dioxidoisothiazolidin-2-yl)-5-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide (from the previous step) in THF (10 mL) was added TBAF in THF (1M, 3.3 mL). The reaction mixture was allowed to stir at rt overnight. The mixture was concentrated to dryness and then diluted with EtOAc. The mixture was washed with water. The organic solution was dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give N-{4-[4-(1,1-dioxidoisothiazolidin-2-yl)-5-(4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide (Compound I-50) (0.028 g, 12%). LCMS (FA): m/z=404.6 (M+H).

reactant | N-{4-[4-(1,1-dioxidoisothiazolidin-2-yl)-5-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide | O=S1(N(CCC1)C=1N=C(OC1C1=NN(C=N1)COCC[Si](C)(C)C)C1=CC(=NC=C1C)NC(C)=O)=O | C22H31N7O5SSi
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 3.3 mL | C1CCOC1 | C4H8O
product | N-{4-[4-(1,1-dioxidoisothiazolidin-2-yl)-5-(4H-1,2,4-triazol-3-yl)-1,3-oxazol-2-yl]-5-methylpyridin-2-yl}acetamide | 0.028 g, 12% | O=S1(N(CCC1)C=1N=C(OC1C1=NN=CN1)C1=CC(=NC=C1C)NC(C)=O)=O | C16H17N7O4S
